Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
AMS

 
Major Surgical or Invasive Procedure:
n/a
 
History of Present Illness:
___ with a hx of afib not on anticoagulation, htn, obesity
presenting with R MCA CVA, s/p tPA, with subsequent intracranial
hemorrhage, made CMO in emergency room.

Pt is nonverbal on arrival to the hospital; history is obtained
from review of transfer records, ED notes, and discussion with
pt's sister ___ (HCP) overnight. 

Pt initially presented to ___ at approx. 11 
am
with reports of last known well at 10:55 am, with apparently
sudden onset of R eye deviation, aphasia, and L hemiparesis. VS
upon arrival were 154/102, 86, 88% RA, temp 98.1. Exam revealed 
R
eye deviation without tracking, aphasia, absent motor function 
of
LUE. A CTA head performed on ___ at 11:58 am revealed a
"large occlusive or near occlusive thrombus within the M1 
segment
of the R MCA. This corresponds with dense MCA sign seen on the
unenhanced CT."  She received tPA 0.9 mg/kg at 12:43 pm, and
decision was made to transfer to ___ for consideration of
thrombectomy. Labs prior to transfer were notable for Na 136, Cr
1.49, Hb 11.9, plt 190, TnT 0.03, INR 0.94. CXR done prior to
transfer raised concern for LLL opacification and probably L
pleural effusion.

En route to ___, apparently pt experienced acute change in her
mental status, no longer protecting her airway. She was bagged
with BVM, with plan for emergent intubation on arrival to the
___ ED. While intubation underway in ED, neurology resident
arrived and informed team of pt's DNR/DNI status, with MOLST 
form
accompanying pt. Attempt at intubation was stopped; LMA was
placed until sedation worn off. Pt's sister subsequently arrived
at the ED, and LMA was removed. 

In the ___ ED:
VS 149, 118/98-->80/40->61/39->70/35, 99% RA
Repeat head CT with evidence of intracranial hemorrhage s/p tPA

Discussed with sister (HCP) ___, patient transitioned to CMO.

Received:
Morphine IV

On arrival to the floor, pt is nonverbal. 
Per discussion with pt's sister ___ by telephone, she 
received
a VM around 1 pm notifying her that pt had a CVA, and that she
required transfer to ___. She recalls being told that the 
blood
thinning medication had caused bleeding in the brain, and that
she would die. 

___ shares with admitting MD that pt was obese, had been
living in a nursing home for ___ years because she was unable to
care for herself. ___ attributes her difficulty caring for
herself to pt's weight; she saw her once every three weeks.
Discussion with admitting MD is at 12:30 am; in this context,
___ reports that she had just fallen asleep, that she is not
certain why she is being asked these questions. She does not 
seem
to have detailed knowledge of the ___ medical history.
___ is aware that pt had completed paperwork to be DNAR/DNI,
but had not previously had detailed discussions with the patient
regarding her goals/values/priorities in the event of a CVA or
otherwise major clinical event.
 
Past Medical History:
per notes, unable to confirm with pt, reviewed with ___:
Atrial fibrillation not anticoagulated ___ vaginal bleeding per
notes
Obesity
Hypertension
"Things that went with obesity" - per ___
 
___ History:
___
Family History:
Not contributory to acute CVA
then ICH s/p tPA
 
Physical Exam:
ADMISSION EXAM

VS: ___ 0018 RR: 16 Dyspnea: N/A RASS: -5 Pain Score:
Sleeping 
GEN: obese female lying in bed, nonresponsive 
HEENT: Pupils are equal, nonresponsive to light or 
accommodation,
edematous tongue with blood tinged secretions, anicteric, MMM,
ears grossly normal
CARDIOVASCULAR: Regular rate and rhythm with ___ systolic murmur
LUNGS: transmitted upper airway sounds anteriorly
GI: soft, obese, without rebounding or guarding, nondistended
with normal active bowel sounds, no hepatomegaly appreciated
EXTREMITIES: 2+ pitting edema of bilateral LEs, WWP
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: unresponsive to verbal, tactile, painful stimuli. Pupils
are symmetric but not responsive to light or accommodation. No
spontaneous movement. No tracking. Negative ___ sign, no
movement of R toe with Babinski; L toe is upgoing. 
PSYCH: nonresponsive

Discharge exam: absent chest rise, absent breath sounds, absent 
pupillary reflex, all c/w death
 
Pertinent Results:
None
 
Brief Hospital Course:
Patient was admitted on comfort measures only and started on a 
morphine drip for respiratory distress. She passed on ___ at 
08___ AM.

> 35 minutes spent on discharge activities.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Venlafaxine XR 75 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Levothyroxine Sodium 25 mcg PO DAILY 
4. Lidocaine 5% Ointment 1 Appl TP BID 
5. Lisinopril 2.5 mg PO DAILY 
6. MetFORMIN (Glucophage) 500 mg PO BID 
7. Vitamin D ___ UNIT PO MONTHLY ON THE ___ 
8. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Death d/t intracranial hemorrhage
 
Discharge Condition:
n/a
 
Discharge Instructions:
The patient was admitted with a stroke on comfort care. She 
passed comfortably on ___ at 0823.
 
Followup Instructions:
___